US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide (E309)
To a mixture of 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluorobenzenesulfonamide (E103) (200 mg, 0.42 mmol) and (5-methyl-2-furanyl)boronic acid (106 mg, 0.84 mmol) in DME (3 ml) was added potassium tert-butoxide (430 mg, 3.8 mmol) and tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. The solvent was evaporated in vacuo and residue purified using an SCX column followed by mass directed autoprep HPLC (with addition of 0.1 ml of 10% citric acid in water to the DMSO/MeCN sample to help dissolution) to afford the title compound (E309). MS (ES+) m/e 474 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluorobenzenesulfonamide | 0.42 mmol, 200 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC)F | C19H23BrFN3O3S
reactant | (5-methyl-2-furanyl)boronic acid | 0.84 mmol, 106 mg | CC1=CC=C(O1)B(O)O | C5H7BO3
reactant | potassium tert-butoxide | 3.8 mmol, 430 mg | CC(C)([O-])C.[K+]
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=C(C=C1)C=1OC(=CC1)C)F)OC | C24H28FN3O4S
